US04590201
A stirred, 60° C. solution of sodium (88.7 mg, 3.84 mmol) in absolute ethanol (9.6 ml) was treated with 2-cyanoacetamide (323 mg, 3.84 mmol), kept 5 min., and treated with 3-chloro-4-(4-chlorobenzoyl)-5-methylbenzyl azide (1.03 g, 3.20 mmol). The mixture was refluxed 1 hour, cooled to ambient temperature, acidified with glacial acetic acid (487 μl, 511 mg, 7.68 mmol), and evaporated to dryness at 30° C. under vacuum. The residue was chromatographed on a column of silica gel (150 g) eluted in 17 ml fractions with 19:1 (v/v) dichloromethane-methanol. Fractions 22-38 were combined and evaporated to dryness. The residual glass was kept 18 hours at ambient temperature with diethyl ether (25 ml), filtered, washed with diethyl ether, and dried to provide 870 mg (67%) crystalline 5-amino-1-(3-chloro-4-[4-chlorobenzoyl]-5-methylbenzyl)-1,2,3-triazole-4 -carboxamide, m.p. 205°-206° C.

reactant | sodium | 3.84 mmol, 88.7 mg | [Na] | Na
reactant | 2-cyanoacetamide | 3.84 mmol, 323 mg | C(#N)CC(=O)N | C3H4N2O
reactant | 3-chloro-4-(4-chlorobenzoyl)-5-methylbenzyl azide | 3.20 mmol, 1.03 g | ClC=1C=C(CN=[N+]=[N-])C=C(C1C(C1=CC=C(C=C1)Cl)=O)C | C15H11Cl2N3O
reactant | acetic acid | 7.68 mmol, 487 μl, 511 mg | C(C)(=O)O | C2H4O2
solvent | ethanol | 9.6 ml | C(C)O | C2H6O
product | 5-amino-1-(3-chloro-4-[4-chlorobenzoyl]-5-methylbenzyl)-1,2,3-triazole-4 -carboxamide | 870 mg, 67% | NC1=C(N=NN1CC1=CC(=C(C(=C1)C)C(C1=CC=C(C=C1)Cl)=O)Cl)C(=O)N | C18H15Cl2N5O2
